US04057416
In the manner of Example II, 7.9 g of 1,1-dimethyl-3-(4-cyano-3-(methylthio)-5-isothiazolyl)urea was oxidized with 3.7 ml of 30% hydrogen peroxide to give 7.0 g of 1,1-dimethyl-3-(4-cyano-3-(methylsulfinyl)-5-isothiazolyl)urea, m.p. 178°-179°. The nmr spectrum was consistent with the assigned structure.

reactant | 1,1-dimethyl-3-(4-cyano-3-(methylthio)-5-isothiazolyl)urea | 7.9 g | CN(C(=O)NC1=C(C(=NS1)SC)C#N)C | C8H10N4OS2
reactant | hydrogen peroxide | 3.7 ml | OO | H2O2
product | 1,1-dimethyl-3-(4-cyano-3-(methylsulfinyl)-5-isothiazolyl)urea | 7.0 g | CN(C(=O)NC1=C(C(=NS1)S(=O)C)C#N)C | C8H10N4O2S2
